US06720338B2
4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid
A solution of 4-(dihydroxyboryl)benzoic acid (1.66 g, 10 mmol) and pinacol (12 mmol) in toluene (70 mL) was refluxed in a Dean-Stark apparatus for 16 hours and concentrated. The concentrate was triturated with diethyl ether and filtered to provide the desired product of sufficient purity for subsequent use.

reactant | 4-(dihydroxyboryl)benzoic acid | 10 mmol, 1.66 g | OB(C1=CC=C(C(=O)O)C=C1)O | C7H7BO4
reactant | pinacol | 12 mmol | OC(C)(C)C(C)(C)O | C6H14O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | CC1(OB(OC1(C)C)C1=CC=C(C(=O)O)C=C1)C | C13H17BO4
